US06794395B1
(52) 3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-6-trifluoromethyl-2-indolinone
Prepared from 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone and 4-(piperidin-1-yl-methyl)-aniline

reactant | 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(F)(F)F)=C(C1=CC=CC=C1)Cl)=O | C18H11ClF3NO2
reactant | 4-(piperidin-1-yl-methyl)-aniline | N1(CCCCC1)CC1=CC=C(N)C=C1 | C12H18N2
product | 3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-6-trifluoromethyl-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(F)(F)F)=O)C=C1 | C28H26F3N3O
